US05187176
Bromine (10 cm3) was added to a stirred suspension of 4-difluoromethoxy-2-nitroaniline (available as described for example in Example B5(b) of U.S. Pat. No. 4,686,230.) (26.6 g) and sodium acetate trihydrate (19.5 g) in carbon tetrachloride (250 mls). After stirring at ambient temperature for a period of 30 minutes, the reaction mixture was added to dichloromethane (350 mls) and washed with aqueous sodium metabisulphite solution, followed by aqueous sodium bicarbonate solution, and finally brine. The organic layer was the dried over anhydrous magnesium sulphate, and removal of the solvent by evaporation under reduced pressure, gave 6-bromo-4-difluoromethoxy-2-nitroaniline as an orange-brown solid. Melting Point: 60.5°-61.5° C. (cyclohexane).

reactant | Bromine | 10 cm3 | BrBr | Br2
reactant | 4-difluoromethoxy-2-nitroaniline | FC(OC1=CC(=C(N)C=C1)[N+](=O)[O-])F | C7H6F2N2O3
reactant | sodium acetate trihydrate | 19.5 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | dichloromethane | 350 mls | ClCCl | CH2Cl2
solvent | carbon tetrachloride | 250 mls | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-bromo-4-difluoromethoxy-2-nitroaniline | BrC1=CC(=CC(=C1N)[N+](=O)[O-])OC(F)F | C7H5BrF2N2O3
